US06946472B2
Preparation of 6-{2-[methyl-(3-{methyl-[2-(7-oxo-7H-5,10-diaza-benzo[c]fluoren-6-ylamino)-ethyl]-amino}-propyl)-amino]-ethylamino}-5,10-diaza-benzo[c]fluoren-7-one
In a similar manner to Example 4, this compound was obtained starting from toluene-4-sulfonic acid 7-oxo-7H-5,10-diaza-benzo[c]fluoren-6-yl ester (the compound of Reference Example 6c-1) and N,N′-bis-(2-amino-ethyl)-N,N′-dimethyl-propane-1,3-diamine. The desired product was obtained as a reddish powder.

reactant | toluene-4-sulfonic acid 7-oxo-7H-5,10-diaza-benzo[c]fluoren-6-yl ester | O=C1C=2C=CN=CC2C=2C3=C(N=C(C12)OS(=O)(=O)C1=CC=C(C=C1)C)C=CC=C3 | C22H14N2O4S
reactant | N,N′-bis-(2-amino-ethyl)-N,N′-dimethyl-propane-1,3-diamine | NCCN(CCCN(C)CCN)C | C9H24N4
product | 6-{2-[methyl-(3-{methyl-[2-(7-oxo-7H-5,10-diaza-benzo[c]fluoren-6-ylamino)-ethyl]-amino}-propyl)-amino]-ethylamino}-5,10-diaza-benzo[c]fluoren-7-one | CN(CCNC1=NC2=C(C=3C=4C=NC=CC4C(C13)=O)C=CC=C2)CCCN(CCNC2=NC1=C(C=3C=4C=NC=CC4C(C23)=O)C=CC=C1)C | C39H36N8O2
